US05219876
2-Cyano-2-(4-bromophenyl)-1-(pyridin-3-yl)-ethan
The thus obtained 1-cyano-1-(4-bromophenyl)-2-(pyridin-3-yl)-ethene (m.p. 126°) is dissolved in 800 ml of CH3OH, and then 10 g of NaBH4 are added, with stirring, within 20 minutes at 20°-30°. The mixture is stirred for 12 hours at room temperature and the solvent evaporated at the water jet. The residue is suspended in 1000 ml of water, sucked off, dried and recrystallised in toluene (m.p. 111°).

reactant | 1-cyano-1-(4-bromophenyl)-2-(pyridin-3-yl)-ethene | C(#N)C(=CC=1C=NC=CC1)C1=CC=C(C=C1)Br | C14H9BrN2
reactant | NaBH4 | 10 g | [BH4-].[Na+]
solvent | CH3OH | 800 ml | CO | CH4O
product | 2-Cyano-2-(4-bromophenyl)-1-(pyridin-3-yl)-ethan | C(#N)C(CC=1C=NC=CC1)C1=CC=C(C=C1)Br | C14H11BrN2
